US07847101B2
Synthesis of 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-5-sulfonic Acid Methylamide (574-12E)
To a suspension of 2-(1-cyano-2-methoxypropenyl)benzothiazole-5-sulfonic acid methylamide (120 mg, 0.37 mmol) in 4 mL of methanol, was added hydrazine hydrate (20 μL). The mixture was heated to reflux for 5 hrs and then 1 drop of conc. hydrochloric acid was added to the reaction mixture. The mixture was refluxed for an additional 5 min and was then allowed to cool. The volume of solvent was reduced under reduced pressure and a solid formed. The solid was isolated by filtration and was washed with methanol and then water and dried to yield 51 mg (43%) of the title compound as a cream coloured powder. MS (m/z, ES+): 324.0 (M+1, 100%).

reactant | 2-(1-cyano-2-methoxypropenyl)benzothiazole-5-sulfonic acid methylamide | 0.37 mmol, 120 mg | CNS(=O)(=O)C=1C=CC2=C(N=C(S2)C(=C(C)OC)C#N)C1 | C13H13N3O3S2
reactant | hydrazine hydrate | 20 μL | O.NN
solvent | methanol | 4 mL | CO | CH4O
catalyst | hydrochloric acid | 1 drop | Cl | ClH
product | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-5-sulfonic Acid Methylamide | 51 mg, 43% | CNS(=O)(=O)C=1C=CC2=C(N=C(S2)C=2C(=NNC2N)C)C1 | C12H13N5O2S2
